US08030334B2
A flask is charged with phenylhydrazine (0.873 g, 6.46 mmol) and EtOH (14 mL). 1-Pyridin-3-yl-butan-1-one (0.914 g, 6.13 mmol) is added and the reaction is refluxed for 1 h. After cooling to room temperature, HCl (4M in 1,4-dioxane, 6.45 mL, 25.83 mmol) is added. The reaction mixture is refluxed for 4 h. After cooling to room temperature, the precipitate formed is filtered to afford 3-ethyl-2-pyridin-3-yl-1H-indole as a yellow solid. MS (ESI) m/z 223.0 (M+H)+.

reactant | phenylhydrazine | 6.46 mmol, 0.873 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | 1-Pyridin-3-yl-butan-1-one | 6.13 mmol, 0.914 g | N1=CC(=CC=C1)C(CCC)=O | C9H11NO
reactant | HCl | 25.83 mmol, 4M, 6.45 mL | Cl | ClH
solvent | EtOH | 14 mL | CCO | C2H6O
product | 3-ethyl-2-pyridin-3-yl-1H-indole | C(C)C1=C(NC2=CC=CC=C12)C=1C=NC=CC1 | C15H14N2
